PMSM (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U
.DC LIN VPWM3 0 1 10M

.PROBE V([VADC_VDC]) V([VADC_VC]) V([VADC_VB]) V([VADC_VA]) V([VADC_IC])
.PROBE V([VADC_IB]) V([VADC_IA]) I(VAM3) I(VAM2) I(VAM1)

VS4         13 0 1.65
VS3         20 0 1.65
VS2         27 0 1.65
IPMSM1_C    UC 33 10M
IPMSM1_B    UB 33 10M
IPMSM1_A    UA 33 10M
VAM3        34 UA ; Current Arrow
VAM2        35 UB ; Current Arrow
VAM1        36 UC ; Current Arrow
VPWM3       37 35 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM4       38 IB_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM1       39 36 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM2       40 IA_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM5       41 34 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM6       43 IC_SENSOR DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VS1         42 0 5
C18         VADC_VDC 0 470N 
R34         UBUS VADC_VDC 47K 
R33         VADC_VDC 0 1K 
C17         VADC_VC 0 470N 
R32         UC VADC_VC 47K 
R31         VADC_VC 0 1K 
C16         VADC_VB 0 470N 
R30         UB VADC_VB 47K 
R29         VADC_VB 0 1K 
C15         VADC_VA 0 470N 
R28         UA VADC_VA 47K 
R27         VADC_VA 0 1K 
C14         13 14 220P 
R26         14 13 22K 
C13         0 VADC_IC 220P 
R25         15 VADC_IC 1K 
C12         15 16 220P 
R24         16 15 22K 
C11         17 18 220P 
R23         18 14 1K 
R22         0 18 1K 
R21         17 16 1K 
R20         IC_SENSOR 17 1K 
XIOP3        14 16 15 IdOpamp
C10         20 21 220P 
R19         21 20 22K 
C9          0 VADC_IB 220P 
R18         22 VADC_IB 1K 
C8          22 23 220P 
R17         23 22 22K 
C7          24 25 220P 
R16         25 21 1K 
R15         0 25 1K 
R14         24 23 1K 
R13         IB_SENSOR 24 1K 
XIOP2        21 23 22 IdOpamp
C6          27 28 220P 
R12         28 27 22K 
C5          0 VADC_IA 220P 
R10         29 VADC_IA 1K 
C4          29 30 220P 
R9          30 29 22K 
C3          31 32 220P 
R8          32 28 1K 
R7          0 32 1K 
R6          31 30 1K 
R5          IA_SENSOR 31 1K 
XIOP1        28 30 29 IdOpamp
R4          IC_SENSOR 0 5M 
R2          IB_SENSOR 0 5M 
R1          IA_SENSOR 0 5M 
R11         33 0 1MEG 
MT6         UBUS 37 35 35  ME_2N6755_N_1 NRD=0 NRS=0 
MT5         35 38 IB_SENSOR IB_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
MT4         UBUS 39 36 36  ME_2N6755_N_1 NRD=0 NRS=0 
MT3         36 40 IA_SENSOR IA_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
MT2         UBUS 41 34 34  ME_2N6755_N_1 NRD=0 NRS=0 
R3          42 UBUS 50M 
C2          UBUS 0 100U 
MT1         34 43 IC_SENSOR IC_SENSOR  ME_2N6755_N_1 NRD=0 NRS=0 
C1          UBUS 0 100U 

.MODEL ME_2N6755_N_1 NMOS( LEVEL=3 VTO=3.128 KP=21.14U PHI=600M GAMMA=0 TOX=100N 
+      UO=600 VMAX=0 DELTA=0 THETA=0 ETA=0 
+      L=2U W=1.1 RD=64.68M RS=120.7M RG=5.839 
+      RB=0 RDS=600K IS=44.14F N=1 PB=800M 
+      CBD=1.261N CBS=0 MJ=500M TT=370N CGSO=725.6P 
+      CGDO=310.6P CGBO=0 KF=0 AF=1 )

.END
